US04873236
11-[[[2-[2-[(Diethylamino)methyl]-piperidin-1-yl]ethyl]amino]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one hydrochloride
A mixture of 33.4 g (0.122 mol) of 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one, 28.0 g (0.131 mol) of 2-[2-[(diethylamino)methyl]piperidin-1-yl]ethanamine and 730 ml of anhydrous acetonitrile was stirred for 3 hours at a reaction temperature of 45° C. After standing for 1 hour in an ice bath, the precipitate formed was suction filtered and washed with ice cold acetonitrile. It was dissolved in 400 ml of hot ethanol, 4.6 g of activated charcoal were added, the mixture was filtered whilst hot and the filtrate was evaporated down in vacuo. The residue remaining was dissolved in 150 ml of hot propan-2-ol and stirred at a temperature of 75° C. for 2 hours after the careful addition of 800 ml of ethyl acetate. The mixture was then left to stand for 2 hours at ice bath temperature, the crystals produced were suction filtered and thoroughly washed three times with 20 ml aliquots of ethyl acetate. 37.0 g (62% of theory) of colourless crystals were obtained, m.p. 200°-202° C.

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 0.122 mol, 33.4 g | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 2-[2-[(diethylamino)methyl]piperidin-1-yl]ethanamine | 0.131 mol, 28.0 g | C(C)N(CC)CC1N(CCCC1)CCN | C12H27N3
solvent | acetonitrile | 730 ml | C(C)#N | C2H3N
product | 11-[[[2-[2-[(Diethylamino)methyl]-piperidin-1-yl]ethyl]amino]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one hydrochloride | Cl.C(C)N(CC)CC1N(CCCC1)CCNC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | InChI=1S/C25H34N6O2.ClH/c1-3-29(4-2)18-19-10-7-8-16-30(19)17-15-27-25(33)31-22-13-6-5-11-20(22)24(32)28-21-12-9-14-26-23(21)31;/h5-6,9,11-14,19H,3-4,7-8,10,15-18H2,1-2H3,(H,27,33)(H,28,32);1H
